US06586630B1
Under cooling with ice, NMM (0.463 ml, 4.21 mmol) and ethyl chloroformate (0.403 ml, 4.21 mmol) were added to a solution of Boc-N-Me-Tyr(Bzl)—OH (1.35 g, 3.51 mmol) in THF (35 ml), followed by stirring for 15 min. The reaction mixture was stirred for further 30 min., while bubbling gaseous ammonia therein. The reaction mixture was then left standing at room temperature, diluted with ethyl acetate and washed with water and saturated brine. The organic layer was dried over magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:1) to give Boc-N-Me-Tyr(Bzl)—NH2 (1.32 g, 98%).

reactant | NMM | 4.21 mmol, 0.463 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 4.21 mmol, 0.403 ml | ClC(=O)OCC | C3H5ClO2
reactant | Boc-N-Me-Tyr(Bzl)—OH | 3.51 mmol, 1.35 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)(C)C(=O)OC(C)(C)C | C22H27NO5
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | Boc-N-Me-Tyr(Bzl)—NH2 | 1.32 g, 98% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N)(C)C(=O)OC(C)(C)C | C22H28N2O4
